US06172085B2
A suspension of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (1.4 g), 1,2,3,4-tetrahydroisoquinoline (1.3 g), and potassium carbonate (1.4 g) in N,N-dimethylacetamide (10 mL) was refluxed under nitrogen gas for 15 hours. This reaction mixture was diluted with water and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3:1) to provide 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1,2,3,4-tetrahydroisoquinolin-2-yl)methyl]-5-benzofuranamine. This product was dissolved in ethanol, followed by addition of 1 equivalent of oxalic acid solution in ethanol. This mixture was heated and the resulting solution was concentrated under reduced pressure. The crystals that separated out were collected to provide 1.5 g of the title compound. Yield 68%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 1.4 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 1,2,3,4-tetrahydroisoquinoline | 1.3 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1,2,3,4-tetrahydroisoquinolin-2-yl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CC1=CC=CC=C1CC2 | C22H28N2O
